US07037935B2
d) (RS)-1-[2,5-Difluoro-4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methylamide
A solution of 365 mg (1.0 mmol) of (RS)-1-[2,5-difluoro-4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid is treated with 178 mg (1.1 mmol) of 1,1′-carbonyl-diimidazole, and the mixture is heated at 50° C. for 2 hours. Thereafter, the solution is cooled to RT and 47 mg (1.5 mmol) of methylamine (33% solution in ethanol) are added. After 18 hours the reaction is not complete, so that another 47 mg (1.5 mmol) of methylamine (33% solution in ethanol) are added and stirring is continued for 24 hours at 50° C. For the working-up, the reaction mixture is evaporated under reduced pressure. For purification, the material obtained is chromatographed on silica gel using a 95:5-mixture of dichloromethane and methanol as the eluent. There are obtained, after crystallization from ether, 136 mg (36% of theory) of the (RS)-1-[2,5-difluoro-4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methylamide as an off-white solid. MS: m/e=379 (M+H)+.

reactant | (RS)-1-[2,5-difluoro-4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid | 1.0 mmol, 365 mg | FC1=C(C=C(C(=C1)OCC1=CC(=CC=C1)F)F)N1CC(CC1=O)C(=O)O | C18H14F3NO4
reactant | 1,1′-carbonyl-diimidazole | 1.1 mmol, 178 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | 1.5 mmol, 47 mg | CN | CH5N
reactant | methylamine | 1.5 mmol, 47 mg | CN | CH5N
product | (RS)-1-[2,5-Difluoro-4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methylamide | CNC(=O)C1CN(C(C1)=O)C1=C(C=C(C(=C1)F)OCC1=CC(=CC=C1)F)F | C19H17F3N2O3
